US07335658B2
6-[4-(2,4-DICHLOROBENZOYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (3-METHYLBUTYL)AMIDE
Following the procedure of Example 3, making variations only as required to use 2,4-dichlorobenzoyl chloride in place of isoxazole-5-carbonyl chloride to react with 6-piperazin-1-yl-pyridazine-3-carboxylic acid (3-methylbutyl)amide, the title compound was obtained as a white solid (90% yield). 1H NMR (500 MHz, CDCl3) δ 8.07, 7.85, 7.47, 7.35, 7.28, 7.01, 4.02-4.09, 3.75-3.93, 3.33-3.52, 1.65-1.75, 1.52, 0.94. MS (ES+) m/z 450 (M).

reactant | 2,4-dichlorobenzoyl chloride | ClC1=C(C(=O)Cl)C=CC(=C1)Cl | C7H3Cl3O
reactant | 6-piperazin-1-yl-pyridazine-3-carboxylic acid (3-methylbutyl)amide | CC(CCNC(=O)C=1N=NC(=CC1)N1CCNCC1)C | C14H23N5O
product | 6-[4-(2,4-DICHLOROBENZOYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (3-METHYLBUTYL)AMIDE | CC(CCNC(=O)C=1N=NC(=CC1)N1CCN(CC1)C(C1=C(C=C(C=C1)Cl)Cl)=O)C | C21H25Cl2N5O2
